US05760259
7-(p-Ethoxyphenyl)heptanoic acid
This compound was synthesized from 7-(p-ethoxyphenyl)-6-heptenoic acid (1.24 g, 5 mmol) and Pd/C (125 mg) by a hydrogenation reaction. Crystallization (petroleum ether) afforded the product (1.21 g, 97%) as white crystals (mp 65°-66° C.). IR: 3400-2500, 1715 cm-1 ; 1H-NMR: 1.32 (m, 7H), 1.55 (m, 5H), 2.30 (t, 2H), 2.50 (t, 2H), 3.95 (q, 2H), 6.90 (q, 2H), 10.20 (bs, 1H). Anal. Calcd. for C15H22O3 : C, 71.97, H, 8.86%; Found: C, 71.91, H, 8.87%.

reactant | 7-(p-ethoxyphenyl)-6-heptenoic acid | 5 mmol, 1.24 g | C(C)OC1=CC=C(C=C1)C=CCCCCC(=O)O | C15H20O3
catalyst | Pd/C | 125 mg | [Pd] | Pd
product | 7-(p-Ethoxyphenyl)heptanoic acid | 1.21 g, 97% | C(C)OC1=CC=C(C=C1)CCCCCCC(=O)O | C15H22O3
